US08445509B2
Production of 1-(2,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
To a solution of 2-cyano-N-(2,4-difluorophenyl)acetamide (5.5 g, 28 mmol) and (3E)-4-methoxybut-3-en-2-one (3.65 g, 36.5 mmol) in dimethyleneglycol monomethylether (50 mL) was added 1,4-diazabicyclo[2.2.2]octane (3.14 g, 28 mmol), and the mixture was stirred at 120° C. for 12 hr. The reaction mixture was diluted with 2N hydrochloric acid, tetrahydrofuran and ethyl acetate, and extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate to give a slightly yellow solid. The slightly yellow solid was suspended in tetrahydrofuran at 80° C., and the suspension was stirred for 30 min. The suspension was filtrated, and the obtained solid was washed with tetrahydrofuran to give the title compound (650 mg, 9.4%) as a white solid.

reactant | 2-cyano-N-(2,4-difluorophenyl)acetamide | 28 mmol, 5.5 g | C(#N)CC(=O)NC1=C(C=C(C=C1)F)F | C9H6F2N2O
reactant | (3E)-4-methoxybut-3-en-2-one | 36.5 mmol, 3.65 g | CO/C=C/C(C)=O | C5H8O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 28 mmol, 3.14 g | N12CCN(CC1)CC2 | C6H12N2
solvent | dimethyleneglycol monomethylether | 50 mL | COCCO | C3H8O2
solvent | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 650 mg, 9.4% | FC1=C(C=CC(=C1)F)N1C(C(=CC=C1C)C#N)=O | C13H8F2N2O
